US04243681
Reaction of the epichlorohydrin derivative of 3-(isopropylthio)phenol (4.85 g., 0.029 mole) with n-octylamine (4 g., 0.031 mole) according to the procedure of Example 2(b) and crystallization of the crude product from ethanol-ether affords a 13% yield of analytically pure 1-[3-[(1-methylethyl)thio]phenoxy]-3-(octylamino)2-propanol hydrochloride, m.p. 125°-127° (corr.).

reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | 3-(isopropylthio)phenol | 0.029 mole, 4.85 g | C(C)(C)SC=1C=C(C=CC1)O | C9H12OS
reactant | n-octylamine | 0.031 mole, 4 g | C(CCCCCCC)N | C8H19N
product | 1-[3-[(1-methylethyl)thio]phenoxy]-3-(octylamino)2-propanol hydrochloride | 13% yield | Cl.CC(C)SC=1C=C(OCC(CNCCCCCCCC)O)C=CC1 | InChI=1S/C20H35NO2S.ClH/c1-4-5-6-7-8-9-13-21-15-18(22)16-23-19-11-10-12-20(14-19)24-17(2)3;/h10-12,14,17-18,21-22H,4-9,13,15-16H2,1-3H3;1H
